US07842685B2
To a slurry of (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methanol (2.05 g, 5.45 mmol), triphenylphosphine (1.64 mL, 7.08 mmol) in DCM (25 mL) at 0° C. under N2, carbon tetrabromide (0.634 mL, 6.53 mmol) was added. The reaction mixture was allowed to warm up to ambient temperature. The crude reaction mixture after 1 h, was concentrate in vacuo and purified by silica gel chromatography to afford 2-(4-(bromomethyl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine. MS (ESI) m/z; calculated: 438.0; Observed: 438.9 (M++1).

reactant | (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methanol | 5.45 mmol, 2.05 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CO | C22H17FN2OS
reactant | triphenylphosphine | 7.08 mmol, 1.64 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 6.53 mmol, 0.634 mL | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(bromomethyl)-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | BrCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C22H16BrFN2S
